US04036828
A solution of 3.1 grams of 1-propylhomopiperazine in 20 ml. of methanol is mixed with a solution of 1.6 grams of 3,4-dimethoxy-3-cyclobutene-1,2-dione in 50 ml. of methanol and refluxed under nitrogen for 5 hours. The methanol solvent is evaporated by heating on a steam bath and the residual solid is dissolved in 70 ml. of anhydrous benzene at room temperature, treated with charcoal, and filtered. The resulting filtrate is diluted with 250 ml. of hexane and the precipitate which forms is separated by filtration and dried and then recrystallized from 1000 ml. of refluxing hexane to give 3,4-bis(4-propyl-1-homopiperazinyl)-3-cyclobutene-1,2-dione as white crystals melting at about 90°-92° C.

reactant | 1-propylhomopiperazine | 3.1 grams | C(CC)N1CCNCCC1 | C8H18N2
reactant | 3,4-dimethoxy-3-cyclobutene-1,2-dione | 1.6 grams | COC=1C(C(C1OC)=O)=O | C6H6O4
solvent | methanol | CO | CH4O
product | 3,4-bis(4-propyl-1-homopiperazinyl)-3-cyclobutene-1,2-dione | C(CC)N1CCN(CCC1)C=1C(C(C1N1CCN(CCC1)CCC)=O)=O | C20H34N4O2
